US08445118B2
(5) Titanium Nitrocatecholate (Molecular Weight: 354)
A solution of 4-nitrocatechol (10 g, 64.5 mmol) and toluene (220 ml) was dehydrated by distilling 20 mL of the solution. Thereafter, 9.15 g (32.2 mmol) of titanium(IV) isopropoxide (TTIP) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (4-nitrocatechol-titanium complex) was brown in color. The yield amount was 11.0 g (31.1 mmol), and the yield percentage was 97%. 3.54 g of 4-nitrocatechol-titanium complex was dissolved into 100 mL of 1:4 acetylacetone/toluene to produce a coating liquid.

reactant | 4-nitrocatechol | 64.5 mmol, 10 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | titanium(IV) isopropoxide | 32.2 mmol, 9.15 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
product | Titanium Nitrocatecholate | [N+](=O)([O-])C1=C(C([O-])=CC=C1)[O-].[Ti+4].[N+](=O)([O-])C1=C(C([O-])=CC=C1)[O-] | InChI=1S/2C6H5NO4.Ti/c2*8-5-3-1-2-4(6(5)9)7(10)11;/h2*1-3,8-9H;/q;;+4/p-4
